US04734407
(a) Methyl 2,3-dimethylquinoxaline-6-carboxylate (3a)
55.8 g (0.354 mole) of methyl 3,4-diaminobenzoate and 30.5 g (0.354 mole) of diacetyl are heated under reflux in 500 ml of toluene for 3 hours, using a water separator. The toluene is distilled off in vacuo and the residue is dissolved in ethyl acetate under the influence of heat, active charcoal being added, the active charcoal is separated off via a Seitz filter and the filtrate is concentrated to dryness.

reactant | methyl 3,4-diaminobenzoate | 0.354 mole, 55.8 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,3-dimethylquinoxaline-6-carboxylate | CC1=NC2=CC=C(C=C2N=C1C)C(=O)OC | C12H12N2O2
